US07658979B2
Synthesis of 4-benzyloxy-2-chloro-benzoic acid
17.7 g (60.9 mmol) of 4-benzyloxy-2-chloro-benzoic acid ethyl ester and 4.87 g (122 mmol) of sodium hydroxide were added to a mixed solvent consisting of 180 mL of methanol and 18 mL of water followed by refluxing for 6 hours. After cooling, concentrated hydrochloric acid was added to bring to a pH of 5 followed by filtering out the precipitate. The precipitate was washed with water and dried to obtain 8.5 g of a white solid.

reactant | 4-benzyloxy-2-chloro-benzoic acid ethyl ester | 60.9 mmol, 17.7 g | C(C)OC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)=O | C16H15ClO3
reactant | sodium hydroxide | 122 mmol, 4.87 g | [OH-].[Na+]
reactant | methanol | 180 mL | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 18 mL | O | H2O
product | 4-benzyloxy-2-chloro-benzoic acid | 8.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)Cl | C14H11ClO3
